US08686044B2
Preparation of 4-(perfluorobutan-2-yl)aniline
4.90 g (52.6 mmol) of aniline, 10.1 g (58.0 mmol) of 85% sodium hydrosulfite, and 1.90 g (5.77 mmol) of tetrabutylammonium hydrogen sulfate were charged to a mixed solution of 150 ml of t-butyl methyl ether and 150 ml of water using a light-shielded reaction vessel, and 4.84 g (57.6 mmol) of sodium hydrogen carbonate was added thereto. 20.0 g (57.8 mmol) of nonafluoro-s-butyliodide was added dropwise thereto at room temperature, followed by stirring at room temperature for 5 hours. The organic phase was collected by separation, washed with 2 mol/L of an aqueous hydrochloric acid solution twice, and then washed with saturated brine, an aqueous sodium hydrogen carbonate solution, and saturated brine. The organic layer was dried over anhydrous magnesium sulfate, and then the solvent was evaporated under reduced pressure to prepare 8.32 g (yield 51%) of a target compound.

reactant | aniline | 52.6 mmol, 4.90 g | NC1=CC=CC=C1 | C6H7N
reactant | sodium hydrosulfite | 58.0 mmol, 10.1 g | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
reactant | sodium hydrogen carbonate | 57.6 mmol, 4.84 g | C(O)([O-])=O.[Na+]
reactant | nonafluoro-s-butyliodide | 57.8 mmol, 20.0 g | FC(C(C(C(F)(F)F)(F)I)(F)F)(F)F | C4F9I
catalyst | tetrabutylammonium hydrogen sulfate | 5.77 mmol, 1.90 g | S(=O)(=O)(O)[O-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | water | 150 ml | O | H2O
solvent | t-butyl methyl ether | 150 ml | COC(C)(C)C | C5H12O
product | 4-(perfluorobutan-2-yl)aniline | 8.32 g, yield 51% | FC(C(C(C(F)(F)F)(F)F)(C1=CC=C(N)C=C1)F)(F)F | C10H6F9N
